US08703946B2
1,4-Diazabicylo[2.2.2]octane (1.0 g, 8.93 mmol) and dimethylsulfamoyl chloride (0.88 mL, 8.2 mmol) were sequentially added to a solution of 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (2.0 g, 8.12 mmol) in CH3CN (10 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 18 hours. The mixture was diluted with H2O and extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents concentrated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 40/60). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (2.42 g, 84% yield) as a white solid.

reactant | 1,4-Diazabicylo[2.2.2]octane | 8.93 mmol, 1.0 g | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylsulfamoyl chloride | 8.2 mmol, 0.88 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 8.12 mmol, 2.0 g | C(C)OC(=O)C=1NN=C(C1)COC1=CC=CC=C1 | C13H14N2O3
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | H2O | O | H2O
product | 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 2.42 g, 84% yield | C(C)OC(=O)C=1N(N=C(C1)COC1=CC=CC=C1)S(N(C)C)(=O)=O | C15H19N3O5S
